US09212147B2
To [1,4]benzodioxino[2,3-c]pyridazin-3-ylmethanol (8.1 g) was added 1,2-dichloroethane (80 ml) and the mixture was stirred. Thionyl bromide (38.9 g) was added, and the mixture was stirred with heating under reflux for 2 hr. The mixture was diluted with chloroform, and the organic layer was washed with saturated aqueous sodium hydrogen carbonate solution, and dried over anhydrous sodium sulfate. The solvent was concentrated under reduced pressure, and the residue was washed with diethyl ether to give 3-(bromomethyl)[1,4]benzodioxino[2,3-c]pyridazine (8.0 g).

reactant | [1,4]benzodioxino[2,3-c]pyridazin-3-ylmethanol | 8.1 g | N1=NC(=CC2=C1OC1=C(O2)C=CC=C1)CO | C11H8N2O3
reactant | 1,2-dichloroethane | 80 ml | ClCCCl | C2H4Cl2
reactant | Thionyl bromide | 38.9 g | S(=O)(Br)Br | Br2OS
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-(bromomethyl)[1,4]benzodioxino[2,3-c]pyridazine | 8.0 g | BrCC1=CC2=C(N=N1)OC1=C(O2)C=CC=C1 | C11H7BrN2O2
